US08198455B2
Synthesis of the (R)-2-[[[3-methyl-4-nitro-2-piridyl]-methyl]sulfinyl]benzimidazole (II)
A mixture of 2-[[3-methyl-4-nitro-2-piridyl]methylthio]benzimidazole (10 g, 33 mmoles, containing 70 mg of water) and (+)-diethyl-L-tartrate (3.02 g, 14.6 mmoles), in THF (100 ml) is brought to reflux temperature and maintained under stirring for 30 minutes. Titanium isopropoxide (1.89 g, 6.66 mmoles) is added and the mixture is maintained under stirring at reflux temperature till the formation of a clear solution is achieved. The solution is then cooled and added with diisopropylethylamine (1.42 g, 10.9 mmoles). After having achieved the range temperature between −5° C. and 0° C., the solution is treated by slow cooling with cumene hydroperoxide 88% (17.3 g, 100 mmoles). The reaction mixture is maintained under stirring for 3 hours at about 0° C., then treated with a 30% sodium thiosulphate solution to decompose the residue of cumene hydroperoxide. After the separation of the phases the aqueous phase is washed with toluene, and the gathered up organic phases and concentrated under reduced pressure. The oily residue so obtained is taken up with water and treated with sodium hydroxide 30% till pH 12. The so obtained mixture is treated with isopropyl acetate and a solution of sodium bisulfite 25% till pH 9 is added. The precipitated solid is then filtered off and washed with isopropyl acetate and copious water. 9.2 g of product are recovered with a yield of 80% and a chemical and stereochemical purity (determined by HPLC and chiral HPLC) equal to or higher than 98%.

reactant | 2-[[3-methyl-4-nitro-2-piridyl]methylthio]benzimidazole | 33 mmoles, 10 g | CC=1C(=NC=CC1[N+](=O)[O-])CSC=1NC2=C(N1)C=CC=C2 | C14H12N4O2S
reactant | (+)-diethyl-L-tartrate | 14.6 mmoles, 3.02 g | C(C)[C@]([C@](C(=O)[O-])(O)CC)(O)C(=O)[O-]
reactant | diisopropylethylamine | 10.9 mmoles, 1.42 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cumene hydroperoxide | 100 mmoles, 17.3 g | [O-]O.C1(=CC=CC=C1)C(C)C
reactant | sodium thiosulphate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | isopropyl acetate | C(C)(=O)OC(C)C | C5H10O2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | Titanium isopropoxide | 6.66 mmoles, 1.89 g | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | water | O | H2O
product | (R)-2-[[[3-methyl-4-nitro-2-piridyl]-methyl]sulfinyl]benzimidazole | yield of 80% | CC=1C(=NC=CC1[N+](=O)[O-])C[S@@](=O)C=1NC2=C(N1)C=CC=C2 | C14H12N4O3S
